*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.15
*** -----------------------------------------------------
***     Extraction Engine: KPEX/FasterCap
***     Technology: ihp_sg13g2
***     Date: 2026-09-04 11:24:13
*********************************************************

.SUBCKT capsub_m3
CCext_0_1 VSUBS \$2 39.5752f
CCext_0_2 VSUBS \$3 4.04133f
CCext_1_2 \$2 \$3 10.697a
CCext_1_1 \$2 VSUBS 2.02545f
CCext_2_2 \$3 VSUBS 555.653a
RRext_FC_GND_GND FC_GND GND 0 PEX_RES
RRext_VSUBS_GND VSUBS GND 0 PEX_RES
.ENDS capsub_m3
