*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.15
*** -----------------------------------------------------
***     Extraction Engine: KPEX/FasterCap
***     Technology: ihp_sg13g2
***     Date: 2026-09-04 11:24:57
*********************************************************

.SUBCKT capsub_m4
CCext_0_1 VSUBS \$2 29.1726f
CCext_0_2 VSUBS \$3 3.16555f
CCext_1_2 \$2 \$3 9.08459a
CCext_1_1 \$2 VSUBS 2.09552f
CCext_2_2 \$3 VSUBS 299.695a
RRext_FC_GND_GND FC_GND GND 0 PEX_RES
RRext_VSUBS_GND VSUBS GND 0 PEX_RES
.ENDS capsub_m4
